US09447106B2
A mixture of 6-benzyl-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide (640 mg, 0.00138 mol) and 10% w/w Pd/C (700 mg) in 60 mL of MeOH was stirred at RT under 1 atm of H2 overnight. TLC and LCMS analysis showed starting material was consumed. The reaction was filtered, filtrate was concentrated to get 397 mg (77%) of 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide. 1H NMR (400 MHz, CD3OD-d4) δ 7.65-7.55 (m, 2H), 7.43-7.33 (m, 2H), 7.18-7.12 (m, 1H), 7.11-6.99 (m, 4H), 4.18 (s, 2H), 3.44 (t, J=5.8 Hz, 2H), 3.01 (t, J=5.8 Hz, 2H). MS (ESI) m/e [M+1]+ 373.9.

reactant | 6-benzyl-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide | 0.00138 mol, 640 mg | C(C1=CC=CC=C1)N1CC2=C(CC1)N1C(N2)=C(C(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C28H25N5O2
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Pd/C | 700 mg | [Pd] | Pd
product | 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide | 397 mg, 77% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN2C(NC=3CNCCC32)=C1C(=O)N | C21H19N5O2
